US06790848B2
A mixture of 500 mg (3.78 mmole) 1H-indol-4-yl-amine, 993 mg (3.78 mmole) N-benzyl-bis(2-chloroethyl)amine hydrochloride, and 1.32 mL (7.6 mmole) diisopropylethylamine in 10 mL chlorobenzene was heated at 130° C. for 24 hours. Another 0.66 mL (3.8 mmole) diisopropylethylamine was added and the mixture was heated at 130° C. for an additional 5 hours. The mixture was partitioned between 25 mL ethyl acetate and 10 mL 5% sodium hydroxide. The organic phase was extracted with 10 mL 3 N hydrochloric acid. The aqueous phase was washed with 15 mL ethyl ether, then made basic with 50% sodium hydroxide. The product was extracted with 25 mL dichloromethane, the organic phase was washed with 10 mL water, dried (magnesium sulfate) and concentrated under reduced pressure. 4-(4-benzyl-piperazin-1-yl)-1H-indole (274 mg) was isolated as the hydrochloride salt from ethyl ether.

reactant | 1H-indol-4-yl-amine | 3.78 mmole, 500 mg | N1C=CC2=C(C=CC=C12)N | C8H8N2
reactant | N-benzyl-bis(2-chloroethyl)amine hydrochloride | 3.78 mmole, 993 mg | Cl.C(C1=CC=CC=C1)N(CCCl)CCCl
reactant | diisopropylethylamine | 7.6 mmole, 1.32 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | diisopropylethylamine | 3.8 mmole, 0.66 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | chlorobenzene | 10 mL | ClC1=CC=CC=C1 | C6H5Cl
product | 4-(4-benzyl-piperazin-1-yl)-1H-indole | 274 mg | C(C1=CC=CC=C1)N1CCN(CC1)C1=C2C=CNC2=CC=C1 | C19H21N3
